US04282242
Methyl 5-(4-methylphenylthio)pyrrole-3-carboxylate
Methyl pyrrole-3-carboxylate (2.5 g., 20 mmoles) was dissolved in 50 ml. of methylene chloride. To the stirred solution there was added dropwise p-toluenesulfenyl chloride (2.92 g., 20 mmoles), with the temperature maintained below 30° C. by occasional cooling with an ice-water bath. The reaction was stirred for 60 minutes at room temperature. The reaction mixture was concentrated in vacuo to an oil. The residue was taken up in a mixture of isopropyl alcohol and hexane, a small amount of gum removed by filtration and the filtrate evaporated in vacuo to an oil (5.0 g.). The latter was chromatographed on 150 g. of silica gel, with 100 ml. fractions of the benzene eluant collected. Fractions 10 to 19 were combined to yield the desired product (1.41 g.) contaminated with an impurity showing a mass spectral peak at 281. The latter was removed by recrystallization from methylene chloride/hexane to yield purified methyl 5-(4-methylphenylthio)pyrrole-3-carboxylate (1.14 g., m.p. 118°-121° C., m/e 247).

reactant | Methyl pyrrole-3-carboxylate | 20 mmoles, 2.5 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | p-toluenesulfenyl chloride | 20 mmoles, 2.92 g | C1(=CC=C(C=C1)SCl)C | C7H7ClS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 5-(4-methylphenylthio)pyrrole-3-carboxylate | 1.41 g | CC1=CC=C(C=C1)SC1=CC(=CN1)C(=O)OC | C13H13NO2S
